US07776857B2
A mixture of 7-methoxy-4-(1-(4-nitrophenyl)vinyl)quinoline (0.146 g, 0.477 mmol) and Palladium on carbon, 10% (0.152 g, 1.43 mmol) in EtOAc (10 mL) and MeOH (1 mL) at RT was exposed to an atmosphere of Hydrogen (balloon). After 3 hrs, the mixture was filtered through celite and concentrated in vacuo to afford 4-(1-(7-methoxyquinolin-4-yl)ethyl)benzenamine as a white foam. MH+=279.1.

reactant | 7-methoxy-4-(1-(4-nitrophenyl)vinyl)quinoline | 0.477 mmol, 0.146 g | COC1=CC=C2C(=CC=NC2=C1)C(=C)C1=CC=C(C=C1)[N+](=O)[O-] | C18H14N2O3
reactant | MeOH | 1 mL | CO | CH4O
reactant | Hydrogen | [H][H] | H2
catalyst | Palladium on carbon | [Pd] | Pd
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | 4-(1-(7-methoxyquinolin-4-yl)ethyl)benzenamine | COC1=CC=C2C(=CC=NC2=C1)C(C)C1=CC=C(C=C1)N | C18H18N2O
